US07429665B2
2-{4-[-Pyridin4-yl-2-(2,2,2-trifluoro-ethyl)-2H-pyrazol-3-yl]-phenoxymethyl}-quinoline
Following the procedure for the preparation of 2-[4-(1-Methyl-4-pyridin4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline but substituting (2,2,2-trifluoro-ethyl)-hydrazine provided the title compound. MS: (M+H m/z=461.2).

reactant | 2-[4-(1-Methyl-4-pyridin4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline | CN1N=C(C(=C1)C1=CC=NC=C1)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C25H20N4O
reactant | (2,2,2-trifluoro-ethyl)-hydrazine | FC(CNN)(F)F | C2H5F3N2
product | 2-{4-[-Pyridin4-yl-2-(2,2,2-trifluoro-ethyl)-2H-pyrazol-3-yl]-phenoxymethyl}-quinoline | N1=CC=C(C=C1)C1=C(N(N=C1)CC(F)(F)F)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C26H19F3N4O
